US04224344
A solution of 9-aminomethyl-9,10-dihydro-9,10-methanoanthracene (235 mg) and acetic anhydride (217 mg) in ethanol (5.0 ml) was refluxed for 3 hours. The reaction mixture was diluted with water and extracted with ethyl acetate. The ethyl acetate extract was washed with water, aqueous sodium bicarbonate and water, dried over anhydrous sodium sulfate and evaporated to dryness to give 9-acetylaminomethyl-9,10-dihydro-9,10-methanoanthracene. M.P. 184°-185.5° C.

reactant | 9-aminomethyl-9,10-dihydro-9,10-methanoanthracene | 235 mg | NCC12C3=CC=CC=C3C(C=3C=CC=CC13)C2 | C16H15N
reactant | acetic anhydride | 217 mg | C(C)(=O)OC(C)=O | C4H6O3
solvent | ethanol | 5.0 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | 9-acetylaminomethyl-9,10-dihydro-9,10-methanoanthracene | C(C)(=O)NCC12C3=CC=CC=C3C(C=3C=CC=CC13)C2 | C18H17NO
